US06828314B2
Preparation of 9,10-Dichloro-6-[2-(4-fluorophenoxy)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride
To a solution of tert-butyl 9,10-dichloro-6-[2-(4-fluorophenoxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.41 mmol) in CH2Cl2 (6.0 mL), TFA (0.63 mL, 8.1 minol) was added while stirring at rt. After 30 min, the reaction was made basic with 10% aqueous NaOH, then extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to 0.17 g of a crude solid. After the hydrochloride salt was prepared, it was further purified by a recrystallization from MeOH/EtOAc to give 69 mg (40%) of a white solid: mp 214.0-216.0; 1H NMR (300 MHz, DMSO) δ 7.58 (d, J=8.7 Hz, 1H), 7.31 (d, J=9.0 Hz, 1H), 7.09 (m, 2H), 6.84 (m, 2H), 4.63 (m, 2H), 4.15 (t, J=4.9 Hz, 2H), 3.53 (m, 2H), 13C NMR (400 MHz, DMSO) δ 157.0, 154.7, 153.5, 153.5, 139.5, 134.4, 123.2, 122.0, 121.2, 120.7, 115.2, 115.0, 114.8, 114.7, 110.0, 109.9, 66.6, 44.5, 42.9, 41.6, 21.6, 20.5; IR (diffuse reflectance) 2965, 2838, 2823, 2794, 2770, 2745, 2714, 2697, 2651, 1506, 1442, 1249, 1222, 1206, 831 cm−1; MS (ES+) m/z 393 (M+H+), 364, 238, 221, 175, 79, 74, 66, 64, 62, 61. Anal. Calcd for C20H19Cl2FN2O.HCl: C, 55.90; H, 4.69; N, 6.52, found: C, 55.65; H, 4.72; N, 6.49.

reactant | tert-butyl 9,10-dichloro-6-[2-(4-fluorophenoxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.41 mmol, 0.20 g | ClC1=C(C=2C3=C(N(C2C=C1)CCOC1=CC=C(C=C1)F)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H27Cl2FN2O3
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.63 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 9,10-Dichloro-6-[2-(4-fluorophenoxy)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | 69 mg, 40% | Cl.ClC1=C(C=2C3=C(N(C2C=C1)CCOC1=CC=C(C=C1)F)CCNCC3)Cl | InChI=1S/C20H19Cl2FN2O.ClH/c21-16-5-6-18-19(20(16)22)15-7-9-24-10-8-17(15)25(18)11-12-26-14-3-1-13(23)2-4-14;/h1-6,24H,7-12H2;1H
